US06329385B1
To a solution of 5,11-dihydro-7-methoxy[1]benzoxepino[2,3-b]pyridin-5-one (5.0 g) in THF (50 ml) was added 1.1M cyclopropylmagnesium bromide THF solution (25 ml) at 0° C. The reaction mixture was warmed to room temperature, and stirred for 30 minutes. Aqueous ammonium chloride and ethyl acetate were added to the reaction mixture, the organic layer was separated and washed with saturated aqueous sodium chloride, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was filtered and washed with ethyl acetate-hexane (1:2) to give 5-cyclopropyl-5,11-dihydro-7-methoxy[1]benzoxepino[2,3-b]pyridin-5-ol (5.0 g).

reactant | 5,11-dihydro-7-methoxy[1]benzoxepino[2,3-b]pyridin-5-one | 5.0 g | COC1=CC=CC2=C1CC(C=1C(=NC=CC1)O2)=O | C14H11NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-cyclopropyl-5,11-dihydro-7-methoxy[1]benzoxepino[2,3-b]pyridin-5-ol | 5.0 g | C1(CC1)C1(CC2=C(OC3=NC=CC=C31)C=CC=C2OC)O | C17H17NO3
